* gf180-pll :: div23_cell -- generated by design/netlist.sh from div23_cell.sch
* xschem XSCHEM V3.4.7; do not edit by hand.
** sch_path: design/div23_cell.sch
.subckt div23_cell CKIN MODIN P CKOUT MODOUT VDD VSS
*.ipin CKIN
*.ipin MODIN
*.ipin P
*.opin CKOUT
*.opin MODOUT
*.iopin VDD
*.iopin VSS
XN3 MODIN P MODOUT SB VDD VSS nand3_3v3
XN2Q QB SB DQN VDD VSS nand2_3v3
XIQ DQN DQ VDD VSS inv_3v3
XFQ DQ CKIN Q QB VDD VSS dff_tg_3v3
XICKO QB CKOUT VDD VSS inv2x_3v3
XN2M MODIN Q NMO VDD VSS nand2_3v3
XIM NMO DMO VDD VSS inv_3v3
XFMO DMO CKIN MODOUT MOB VDD VSS dff_tg_3v3
.ends

* expanding   symbol:  nand3_3v3.sym # of pins=6
** sym_path: design/nand3_3v3.sym
** sch_path: design/nand3_3v3.sch
.subckt nand3_3v3 A B C Y VDD VSS
*.ipin A
*.ipin B
*.ipin C
*.opin Y
*.iopin VDD
*.iopin VSS
XMPA Y A VDD VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPB Y B VDD VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPC Y C VDD VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNA Y A NM1 VSS nfet_03v3 L=0.28u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNB NM1 B NM2 VSS nfet_03v3 L=0.28u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNC NM2 C VSS VSS nfet_03v3 L=0.28u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  nand2_3v3.sym # of pins=5
** sym_path: design/nand2_3v3.sym
** sch_path: design/nand2_3v3.sch
.subckt nand2_3v3 A B Y VDD VSS
*.ipin A
*.ipin B
*.opin Y
*.iopin VDD
*.iopin VSS
XMPA Y A VDD VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPB Y B VDD VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNA Y A NMID VSS nfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNB NMID B VSS VSS nfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  inv_3v3.sym # of pins=4
** sym_path: design/inv_3v3.sym
** sch_path: design/inv_3v3.sch
.subckt inv_3v3 A Y VDD VSS
*.ipin A
*.opin Y
*.iopin VDD
*.iopin VSS
XMP Y A VDD VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN Y A VSS VSS nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  dff_tg_3v3.sym # of pins=6
** sym_path: design/dff_tg_3v3.sym
** sch_path: design/dff_tg_3v3.sch
.subckt dff_tg_3v3 D CK Q QB VDD VSS
*.ipin D
*.ipin CK
*.opin Q
*.opin QB
*.iopin VDD
*.iopin VSS
XICKB CK CKB VDD VSS inv_3v3
XICKBB CKB CKBB VDD VSS inv_3v3
XTGMI D NM CKB CKBB VDD VSS tgate_3v3
XIA NM NMA VDD VSS inv_3v3
XIB NMA NMB VDD VSS inv_3v3
XTGMF NMB NM CKBB CKB VDD VSS tgate_3v3
XTGSI NMA NS CKBB CKB VDD VSS tgate_3v3
XIC NS Q VDD VSS inv_3v3
XID Q QB VDD VSS inv_3v3
XTGSF QB NS CKB CKBB VDD VSS tgate_3v3
.ends


* expanding   symbol:  inv2x_3v3.sym # of pins=4
** sym_path: design/inv2x_3v3.sym
** sch_path: design/inv2x_3v3.sch
.subckt inv2x_3v3 A Y VDD VSS
*.ipin A
*.opin Y
*.iopin VDD
*.iopin VSS
XMP Y A VDD VDD pfet_03v3 L=0.28u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN Y A VSS VSS nfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  tgate_3v3.sym # of pins=6
** sym_path: design/tgate_3v3.sym
** sch_path: design/tgate_3v3.sch
.subckt tgate_3v3 A Y GN GP VDD VSS
*.iopin A
*.iopin Y
*.ipin GN
*.ipin GP
*.iopin VDD
*.iopin VSS
XMP Y GP A VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN A GN Y VSS nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

